### PR TITLE
feat(FunProp): tag integrableOn

### PR DESCRIPTION
**Pull request by mcdoll**
Add tags so that `fun_prop` can prove `IntegrableOn`

Done at ICERM workshop "Techniques and Tools for the Formalization of Analysis"

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 1]
```diff
@@ -184,19 +193,22 @@ theorem IntegrableOn.inter_of_restrict (h : IntegrableOn f s (μ.restrict t)) :
   have := h.mono_set (inter_subset_left (t := t))
   rwa [IntegrableOn, μ.restrict_restrict_of_subset inter_subset_right] at this
 
+@[fun_prop]
+theorem IntegrableOn.left_of_union (h : IntegrableOn f (s ∪ t) μ) : IntegrableOn f s μ :=
+  h.mono_set subset_union_left
+
+@[fun_prop]
+theorem IntegrableOn.right_of_union (h : IntegrableOn f (s ∪ t) μ) : IntegrableOn f t μ :=
+  h.mono_set subset_union_right
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:208]: These are not good `fun_prop` lemmas. `fun_prop`'s backwards reasoning will be able to apply this lemma, leading to infinite loops.

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 2]
```diff
@@ -120,14 +127,15 @@ theorem integrableOn_const {C : ε'} (hs : μ s ≠ ∞ := by finiteness)
     (hC : ‖C‖ₑ ≠ ∞ := by finiteness) : IntegrableOn (fun _ ↦ C) s μ :=
   (integrableOn_const_iff hC).2 <| Or.inr <| lt_top_iff_ne_top.2 hs
 
-@[gcongr]
+@[gcongr, fun_prop]
 theorem IntegrableOn.mono (h : IntegrableOn f t ν) (hs : s ⊆ t) (hμ : μ ≤ ν) : IntegrableOn f s μ :=
   h.mono_measure <| Measure.restrict_mono hs hμ
 
-@[gcongr]
+@[gcongr, fun_prop]
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:134]: These two tags might be useful, but probably not very useful without a good discharger.

However, it will try these lemmas at every step, so it's a huge performance problem, especially when the number of transition steps is increased.

File: Mathlib/MeasureTheory/Function/LocallyIntegrable.lean [hunk 3]
```diff
@@ -589,31 +589,38 @@ theorem ContinuousOn.integrableOn_compact'
     IntegrableOn f K μ :=
   hf.integrableOn_of_subset_isCompact hK h'K Subset.rfl hK.measure_ne_top
 
+@[fun_prop]
 theorem ContinuousOn.integrableOn_compact [T2Space X]
     (hK : IsCompact K) (hf : ContinuousOn f K) : IntegrableOn f K μ :=
   hf.integrableOn_compact' hK hK.measurableSet
 
+@[fun_prop]
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LocallyIntegrable.lean:597]: Should we tag all of these? I think that this might lead to performance issues. The best solution seems to be to tag only a (new?) lemma
```lean
(hK : IsCompact (closure K)) (hf : ContinuousOn f K) : IntegrableOn f K μ
```
and then run the discharger provided by #39370 to discharge the side-condition.

(In the future we might replace `IsCompact (closure K)` by a new `IsRelativelyCompact K` which works better in non-R1-spaces)
